US09227956B2
Step 1: (R)-2-(N-(1-(tert-butoxycarbonyl)piperidin-3-yl)-4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzamido)-3-methylpyridine 1-oxide
To a solution of Preparation 14 (R)-2-(1-(tert-butoxycarbonyl)piperidin-3-ylamino)-3-methylpyridine 1-oxide (540 mg, 1.76 mmol) and Preparation 19 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid (420 mg, 1.76 mmol) in DMF (10 mL) was added HATU (803 mg, 2.11 mmol) at 30° C. The reaction was stirred at room temperature for 30 min. Diisopropylethyl amine (682 mg, 5.28 mmol) was then added at 0° C. dropwise. The reaction was stirred at 30° C. for 2 h. The resulting mixture poured into water then extracted with EtOAc (3×30 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered and the filtrate was concentrated under reduced pressure. The crude product was purified by silica gel chromatography to deliver the title compound (760 mg, 82%) as a brown oil.

reactant | (R)-2-(1-(tert-butoxycarbonyl)piperidin-3-ylamino)-3-methylpyridine 1-oxide | 1.76 mmol, 540 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=[N+](C=CC=C1C)[O-] | C16H25N3O3
reactant | 4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzoic acid | 1.76 mmol, 420 mg | N1=CC(=C2N1C=CC=N2)C2=CC=C(C(=O)O)C=C2 | C13H9N3O2
reactant | HATU | 2.11 mmol, 803 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Diisopropylethyl amine | 5.28 mmol, 682 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (R)-2-(N-(1-(tert-butoxycarbonyl)piperidin-3-yl)-4-(pyrazolo[1,5-a]pyrimidin-3-yl)benzamido)-3-methylpyridine 1-oxide | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)N(C(C1=CC=C(C=C1)C=1C=NN2C1N=CC=C2)=O)C2=[N+](C=CC=C2C)[O-] | C29H32N6O4
